US05663331
B. Preparation of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline
1-Cyclopropyl-6,7-difluoro-1,2,3,4-tetrahydro-4-oxoquinoline(10 g) and p-chloranil (22 g) were reacted in the same method as described in Preparation 1-B to give the white above-indicated compound(8.6 g).

reactant | 1-Cyclopropyl-6,7-difluoro-1,2,3,4-tetrahydro-4-oxoquinoline | 10 g | C1(CC1)N1CCC(C2=CC(=C(C=C12)F)F)=O | C12H11F2NO
reactant | p-chloranil | 22 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
product | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline | 8.6 g, Yield: 87% | C1(CC1)N1C=CC(C2=CC(=C(C=C12)F)F)=O | C12H9F2NO
